US03992441
2-Chloro-5-(3-methoxy-4-hydroxypiperidinosulfonyl)benzoic Acid
2-Chloro-5-(3,4-dihydroxypiperidinosulfonyl)benzoic acid (4.0 g.) is heatedfor 16 hours at 90° C. with water (15 ml.), NaOH (1.0 g.) and dimethyl sulfate (0.5 ml.). Dimethyl sulfate and NaOH are added during thecourse of the reaction to maintain basicity. After cooling to room temperature, the reaction mixture is washed with ether and the aqueous phase is acidified with concentrated hydrochloric acid and decanted from the precipitated gum. The gum is dissolved in ethy acetate and chromatographed on a silica gel column. The product fractions in the column effluent are identified by paper chromatography, with development in a solvent system of ethyl acetate-acetic acid. Concentration of the column fraction yields the product, m.p. 170°-174° C.

reactant | 2-Chloro-5-(3,4-dihydroxypiperidinosulfonyl)benzoic acid | 4.0 g | ClC1=C(C(=O)O)C=C(C=C1)S(=O)(=O)N1CC(C(CC1)O)O | C12H14ClNO6S
reactant | NaOH | 1.0 g | [OH-].[Na+]
reactant | dimethyl sulfate | 0.5 ml | S(=O)(=O)(OC)OC | C2H6O4S
solvent | water | 15 ml | O | H2O
product | 2-Chloro-5-(3-methoxy-4-hydroxypiperidinosulfonyl)benzoic Acid | ClC1=C(C(=O)O)C=C(C=C1)S(=O)(=O)N1CC(C(CC1)O)OC | C13H16ClNO6S
